US07851493B2
422 mg [4-(2,2,2-Trifluoro-ethoxymethyl)-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-methanol were dissolved in 5 ml dichloromethane and cooled in an ice bath. 247 μl triethylamine were added, followed by the addition of 110 μl methanesulfonylchloride. The ice bath was removed and the resulting mixture stirred at room temperature over night. 50 ml dichloromethane were added and the reaction mixture was then washed with water and brine, dried over MgSO4 and the solvent removed in vacuo to obtain 509 mg 5-chloromethyl-4-(2,2,2-trifluoro-ethoxymethyl)-2-(4-trifluoromethyl-phenyl)-oxazole as an oil which was used without further purification.

reactant | [4-(2,2,2-Trifluoro-ethoxymethyl)-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-methanol | 422 mg | FC(COCC=1N=C(OC1CO)C1=CC=C(C=C1)C(F)(F)F)(F)F | C14H11F6NO3
reactant | triethylamine | 247 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 110 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-chloromethyl-4-(2,2,2-trifluoro-ethoxymethyl)-2-(4-trifluoromethyl-phenyl)-oxazole | 509 mg | ClCC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)COCC(F)(F)F | C14H10ClF6NO2
